US07211694B2
4.00 g of 4-benzyloxy-1-dimethylaminocyclohexanecarbonitrile were dissolved in 40 ml of tetrahydrofuran, and 10.8 ml of two molar benzylmagnesium chloride solution in tetrahydrofuran were added dropwise under a nitrogen atmosphere, while cooling with an ice bath. After stirring overnight at room temperature, the mixture was again cooled in an ice bath, and 20 ml of cold ammonium chloride solution (20 percent by weight) were added. The phases were separated and extracted twice using 60 ml of diethyl ether each time, the combined organic phases were extracted three times using 50 ml of hydrochloric acid (5 percent by weight) each time, the combined acidic extracts were rendered weakly alkaline (pH 8–9) with aqueous ammonia solution (25 percent by weight) and extracted three times using 60 ml of diethyl ether each time, and the combined organic extracts were dried over sodium sulfate, filtered and concentrated. The resulting yellow solid (3.85 g) was separated on silica gel with diethyl ether/hexane (V:V=1:1). 2.45 g of (1-benzyl-4-benzyloxycyclo-hexyl)dimethylamine were obtained in the form of a white solid which, as described for Example 1, was converted into 2.03 g of the corresponding hydrochloride (white solid) using chlorotrimethylsilane and water in 2-butanone.

reactant | 4-benzyloxy-1-dimethylaminocyclohexanecarbonitrile | 4.00 g | C(C1=CC=CC=C1)OC1CCC(CC1)(C#N)N(C)C | C16H22N2O
reactant | benzylmagnesium chloride | two molar, 10.8 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (1-benzyl-4-benzyloxycyclo-hexyl)dimethylamine | 2.45 g | C(C1=CC=CC=C1)C1(CCC(CC1)OCC1=CC=CC=C1)N(C)C | C22H29NO
